US08871753B2
6-Chloro-14-(pyridin-2-ylcarbonyl)-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
The desired compound was prepared as a white powder according to the procedure of Example C22, step F, using 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene and pyridine-2-carbonyl chloride hydrochloride as the starting materials in 29% yield. LCMS for C23H18ClN6O (M+H)+: m/z=429.0.

reactant | 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | ClC=1C=NC=2NC=3C=CC=C(CNC4=CC=CC(NC1N2)=C4)C3 | C17H14ClN5
reactant | pyridine-2-carbonyl chloride hydrochloride | Cl.N1=C(C=CC=C1)C(=O)Cl
product | 6-Chloro-14-(pyridin-2-ylcarbonyl)-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 29% yield | ClC=1C=NC=2NC=3C=CC=C(CN(C4=CC=CC(NC1N2)=C4)C(=O)C4=NC=CC=C4)C3 | C23H17ClN6O
